US04770688
10 ml of ether and then 0.85 g (0.012 mol) of sodium nitrite in 10 ml of water are added to 2.7 g (0.01 mol) of 5-hydrazino-4-cyano-1-(2,4-dichlorophenyl)-pyrazole in a solution of 1.9 ml of concentrated hydrochloric acid in 10 ml of water at 0° C. When the addition has ended, a further 20 ml of water and 30 ml of ether are added, the mixture is filtered, the ether phase is separated off, dried over calcium chloride and concentrated in vacuo and the oil thus obtainable is purified by chromatography (silica gel; mobile phase: methylene chloride/acetone 9:1). 1.2 g (43% of theory) of 5-azido-4-cyano-1-(2,4-dichlorophenyl)-pyrazole are obtained as an oil.

reactant | ether | 10 ml | CCOCC | C4H10O
reactant | sodium nitrite | 0.012 mol, 0.85 g | N(=O)[O-].[Na+]
reactant | 5-hydrazino-4-cyano-1-(2,4-dichlorophenyl)-pyrazole | 0.01 mol, 2.7 g | N(N)C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C#N | C10H7Cl2N5
reactant | hydrochloric acid | 1.9 ml | Cl | ClH
reactant | ether | 30 ml | CCOCC | C4H10O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 5-azido-4-cyano-1-(2,4-dichlorophenyl)-pyrazole | 1.2 g, 43% | N(=[N+]=[N-])C1=C(C=NN1C1=C(C=C(C=C1)Cl)Cl)C#N | C10H4Cl2N6
